### PR TITLE
Formalize soundness and completeness of BinSum gadget

### PR DESCRIPTION
**Pull request by pirapira**
## Summary

This PR formalizes the BinSum circuit from circomlib, which computes the sum of multiple n-bit binary numbers and outputs the result in binary form.

Mostly overwritten by #213.

Addresses #198

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

File: Clean/Utils/Fin.lean [hunk 1]
```diff
@@ -0,0 +1,136 @@
...
+  -- Now we have: ∑ k, g k * (∑ j, f j k) = ∑ j, (∑ k, f j k * g k)
+  -- Distribute multiplication
+  simp only [Finset.mul_sum]
+  -- Now: ∑ k, (∑ j, g k * f j k) = ∑ j, (∑ k, f j k * g k)
+  -- Use sum_comm to swap order
+  rw [Finset.sum_comm]
+  -- Just need to show g k * f j k = f j k * g k
+  simp only [mul_comm]
+
+end Fin
```
Comment (pirapira) [inline Clean/Utils/Fin.lean]: A newline is needed at the end of the file.

File: Clean/Utils/Vector.lean [hunk 2]
```diff
@@ -232,6 +232,13 @@ theorem append_take_drop {v : Vector α (n + m)} :
   simp only [hi', reduceDIte, getElem_cast, getElem_extract]
   congr
   omega
+
+/-- map and take commute for vectors -/
+lemma map_take {α β : Type} {n : ℕ} (f : α → β) (xs : Vector α n) (i : ℕ) :
+    (xs.map f).take i = (xs.take i).map f := by
+  ext j hj
+  simp only [Vector.getElem_map, Vector.getElem_take]
+
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]: Doesn't this exist in the standard library?

File: Clean/Circomlib/BinSum.lean [hunk 3]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+    -- Goal: Expression.eval env input[j][k] = input_val[j][k]
+    -- We have: eval env input = input_val
+    -- We need to show: Expression.eval env input[j][k] = input_val[j][k]
+    -- Let's work step by step
+
+    -- For vectors of expressions (fields n), the evaluation is element-wise
+    -- So (eval env input[j])[k] = Expression.eval env (input[j][k])
+
+    -- We can use the fact that for fields n:
+    -- eval env v = Vector.map (Expression.eval env) v
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: These are verbose.

File: Clean/Circomlib/BinSum.lean [hunk 4]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+      have vget := Vector.getElem_map (xs := v) (Expression.eval env) i_lt
+      simp only [Fin.getElem_fin, Vector.getElem_map]
+
+    -- The goal has Expression.eval env input[↑j][↑k] = input_val[↑j][↑k]
+    -- We need to be careful about the coercions
+
+    -- First, let's understand what input[↑j] is
+    -- input : Var (BinSumInput n ops) (F p)
+    -- input[↑j] : Var (fields n) (F p) = fields n (Expression (F p))
+    -- input[↑j][↑k] : Expression (F p)
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: These are also verbose

File: Clean/Circomlib/BinSum.lean [hunk 5]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+    -- Which equals: sum over j of fieldFromBits(inp[j])
+
+    -- The circuit has no constraints, so h_constraints_hold is trivial
+    -- We just need to show the computation is correct
+    simp only [main]
+
+    -- The output is the evaluation of the circuit's output expression
+    -- We need to show it equals the sum of fieldFromBits of the inputs
+
+    -- Apply our lemma to show the circuit computes the correct sum
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: not much comments are needed around here.

File: Clean/Circomlib/BinSum.lean [hunk 6]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+              Vector.size_toArray, add_tsub_cancel_right, Array.extract_eq_pop]
+          · simp only [Array.size_pop, Vector.size_toArray, add_tsub_cancel_right,
+            Array.take_eq_extract, Array.extract_eq_pop, le_add_iff_nonneg_right, zero_le,
+            inf_of_le_left, heq_eq_eq]
+      · simp only [circuit_norm]
+        -- Goal: Expression.eval env bits[↑(Fin.last n)] = Expression.eval env bits[n]
+        -- Both sides evaluate the same element of bits
+        -- Fin.last n has value n, and the coercion ↑ preserves this
+        -- So bits[↑(Fin.last n)] = bits[n]
+        congr
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: If `rfl` works, that's clearer than `congr`.

File: Clean/Circomlib/BinSum.lean [hunk 7]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+    · -- Second component: 2^n + 2^n = 2^(n+1)
+      simp only [Expression.eval, ih2]
+      ring_nf
+      -- We have the_fold.2 * 2 = 2^n * 2
+      -- Since ih2 says the_fold.2 = 2^n, we can substitute
+      congr 1
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: If `rfl` works, that's clearer than `congr 1`.

File: Clean/Circomlib/BinSum.lean [hunk 8]
```diff
@@ -32,7 +35,781 @@ The circuit ensures that:
...
+    -- 2. Sum constraint: fieldFromBits(fieldToBits(x)) = x (when x < 2^nout)
+    simp only [circuit_norm, main, BinaryWeightedSum.circuit, subcircuit_norm, Gadgets.Equality.circuit]
+
+    -- The witnessing uses fieldToBits which:
+    -- 1. Produces binary values
+    -- 2. Has the property fieldFromBits(fieldToBits(x)) = x
+
+    -- This proof requires showing that:
+    -- 1. fieldToBits produces binary values (for BinaryWeightedSum constraints)
+    -- 2. fieldFromBits(fieldToBits(input)) = input (for the assertEq)
```
Comment (pirapira) [inline Clean/Circomlib/BinSum.lean]: These comments are verbose throughout the file.

File: Clean/Circomlib/BinSum.lean (hunk 7 above)
Comment (pirapira) [reply Clean/Circomlib/BinSum.lean]: `rfl` doesn't work in this context.

File: Clean/Utils/Vector.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Utils/Vector.lean]: Doesn't seem to be in Loogle.

File: Clean/Circuit/Expression.lean [hunk 9]
```diff
@@ -93,3 +93,36 @@ instance [Field F] : Inhabited F where
...
+section EvalLemmas
+variable [Field F]
+
+/-- Expression.eval distributes over Fin.foldl with addition -/
+lemma eval_foldl (env : Environment F) (n : ℕ)
+    (f : Expression F → Fin n → Expression F) (init : Expression F)
+    (hf : ∀ (e : Expression F) (i : Fin n),
+      Expression.eval env (f e i) = Expression.eval env (f (Expression.const (Expression.eval env e)) i)) :
+    Expression.eval env (Fin.foldl n f init) =
+    Fin.foldl n (fun (acc : F) (i : Fin n) => Expression.eval env (f (Expression.const acc) i)) (Expression.eval env init) := by
```
Comment (mitschabaude) [inline Clean/Circuit/Expression.lean:108]: I like this, seems very useful

**Review by mitschabaude — APPROVED** [review]
@pirapira I went over most of the proofs here and reduced the added PR size from about 1200 to 300 lines.

Personally, I think this is the standard we should hold ourselves to: After something is proved, possibly by AI, we still want to work on those proofs (and statements) until they are clean and minimal. It's almost always possible, and usually rewarding, to simplify an initial proof

**Comment by mitschabaude** [comment]
Sometimes we can even get rid of an assumption we originally needed: https://github.com/Verified-zkEVM/clean/pull/199/commits/96768ea118eda4d231be18ed6c5bc6f586c9baed

**Comment by pirapira** [comment]
>  It's almost always possible, and usually rewarding, to simplify an initial proof

okay, will do.
